US09193720B2
A mixture of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0372 g, 0.065 mmol) and LiOH (0.015 g, 0.645 mmol) in 9:1 EtOH/H2O (2 mL) was refluxed for 2 h. Then, cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid (0.0318 g, 0.058 mmol, 90% yield) as white solid. 1H NMR (500 MHz, CDCl3) δ 7.43-7.49 (m, 2H), 7.15-7.19 (m, 1H), 7.09-7.14 (m, 2H), 7.02-7.08 (m, 3H), 5.78 (br. s., 1H), 5.07-5.15 (m, 2H), 2.74 (s, 3H), 2.28 (s, 3H), 1.25-1.37 (m, 4H), 1.23 (s, 9H), 0.78 (br. s., 6H). 4H of piperidine are missing. LCMS (M+H)=549.5.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.065 mmol, 0.0372 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C)C | C35H45FN2O4
reactant | LiOH | 0.645 mmol, 0.015 g | [Li+].[OH-]
solvent | EtOH H2O | 2 mL | CCO.O
product | (S)-2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-((4-fluorobenzyl)oxy)phenyl)-2,6-dimethylpyridin-3-yl)acetic acid | 0.058 mmol, 0.0318 g, 90% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F)C)C | C33H41FN2O4
